US05807880
Thionyl chloride (0.26 ml, 3.54 mmol) and catalytically effective amount of DMF were added at room temperature to a solution of 9-benzenesulfonyl-2-(1-hydroxyethyl)carbazole (0.621 g, 1.77 mmol) in methylene chloride, and the mixture was heated under reflux for 1.5 hours. After evaporation of the solvent under reduced pressure, the thus obtained residue was mixed with ethyl acetate and washed with saturated sodium bicarbonate aqueous solution and saturated sodium chloride aqueous solution in that order, the organic layer was dried over magnesium sulfate and then the solvent was evaporated under reduced pressure to obtain 9-benzenesulfonyl-2-(1-chloroethyl)carbazole.

reactant | Thionyl chloride | 3.54 mmol, 0.26 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 9-benzenesulfonyl-2-(1-hydroxyethyl)carbazole | 1.77 mmol, 0.621 g | C1(=CC=CC=C1)S(=O)(=O)N1C2=CC=CC=C2C=2C=CC(=CC12)C(C)O | C20H17NO3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 9-benzenesulfonyl-2-(1-chloroethyl)carbazole | C1(=CC=CC=C1)S(=O)(=O)N1C2=CC=CC=C2C=2C=CC(=CC12)C(C)Cl | C20H16ClNO2S
